US05559113
4-[2-(4-Bromophenoxy)ethyl]-1H-imidazole
240 mg (60% in oil; 6 mmol) of sodium hydride are slowly added to a solution of 2.07 g (12 mmol) of 4-bromophenol in 10 ml of formamide and the mixture is stirred at room temperature for 1 hour. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalyst) are added and the mixture is stirred at 80° C. for 3 days. The reaction mixture is cooled and 150 ml of diethyl ether are added. The precipitate is separated by filtration and the filtrate is evaporated under reduced pressure to give a residue which is subjected to column chromatography through silica gel (first eluent ethyl acetate and second eluent 95/5 ethyl acetate/methanol). The title compound is purified by preparative high performance chromatography and then converted to the oxalate which, after crystallization from an ethanol/diethyl ether mixture, melts at 162°-165° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 4-bromophenol | 12 mmol, 2.07 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | formamide | 10 ml | C(=O)N | CH3NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(4-Bromophenoxy)ethyl]-1H-imidazole | BrC1=CC=C(OCCC=2N=CNC2)C=C1 | C11H11BrN2O
